US08497278B2
3-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-1,2,4-oxadiazole-5-carbohydrazide (215)
To a solution of ethyl 3-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-1,2,4-oxadiazole-5-carboxylate (10.5 mmol, 4.0 g) in MeOH (50 mL) was cooled to 0° C., and 99% NH2NH2.H2O (62.8 mmol, 3.2 g) was then added dropwise. In the period of addition, lots of white precipitate was generated, kept stirring for 15 mins, the white solid was collected by filtration. The white solid was dispersed into MeOH again, sonicated for 10 mins, filtered, to give the final product (3.3 g, 86.0%). m/e+=369 (M+H+). 1H NMR (400 MHz, in DMSO-d6): δ 10.9-10.5 (1H, D, brd, NH), δ 8.44-8.42 (1H, D, d, J=6.8 Hz, ArH), δ 7.87-7.85 (2H, D, dd, J=6.4, 1.6 Hz, ArH), δ 7.67-7.64 (1H, D, d, J=9.2 Hz, ArH), δ 7.56-7.54 (2H, D, dd, J=6.4, 1.6 Hz, ArH), δ 7.38-7.25 (1H, D, m, ArH), δ 5.01-4.75 (2H, D, brd, NH2), δ 4.75 (2H, D, s, CH2).

reactant | ethyl 3-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-1,2,4-oxadiazole-5-carboxylate | 10.5 mmol, 4.0 g | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CC1=NOC(=N1)C(=O)OCC | C19H15ClN4O3
reactant | NH2NH2.H2O | 62.8 mmol, 3.2 g | NN.O
solvent | MeOH | 50 mL | CO | CH4O
product | 3-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-1,2,4-oxadiazole-5-carbohydrazide | 3.3 g, 86.0% | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CC1=NOC(=N1)C(=O)NN | C17H13ClN6O2
